US06281363B1
A mixture of 0.257 g of 2(R)-[1(S)-(tert-butoxycarbonyl)-4-phenylbutyl]-4-methyl-N-[2,4-dioxo-1,3,8-triazaspiro[4.5]decan-3-yl]valeramide and 0.209 g of N-(benzyloxycarbonyl)glycine in 5 ml of dry dimethylformamide was stirred and cooled to ice temperature. The mixture was treated with 0.225 g of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride and was then stirred at room temperature for 2 days. The solvent was evaporated and the residue partitioned between water and ethyl acetate. The ethyl acetate layer was washed successively with water, 5% aqueous sodium bicarbonate solution, saturated sodium chloride solution and dried over anhydrous magnesium sulphate. The solvent was evaporated and the residue triturated with ether and there was obtained 0.261 g of N-[8-{N-(benzyloxycarbonyl)aminoacetyl]-2(R)-[1(S)-(tert-butoxycarbonyl)-4-phenylbutyl]-4-methyl-N-[2,4-dioxo-1,3,8-triazaspiro[4.5]decan-3-yl]valeramide in the form of a white solid.

reactant | 2(R)-[1(S)-(tert-butoxycarbonyl)-4-phenylbutyl]-4-methyl-N-[2,4-dioxo-1,3,8-triazaspiro[4.5]decan-3-yl]valeramide | 0.257 g | C(C)(C)(C)OC(=O)[C@@H](CCCC1=CC=CC=C1)[C@H](C(=O)NN1C(NC2(C1=O)CCNCC2)=O)CC(C)C | C28H42N4O5
reactant | N-(benzyloxycarbonyl)glycine | 0.209 g | C(C1=CC=CC=C1)OC(=O)NCC(=O)O | C10H11NO4
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.225 g | Cl.C(C)N=C=NCCCN(C)C
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 8-{N-(benzyloxycarbonyl)aminoacetyl]-2(R)-[1(S)-(tert-butoxycarbonyl)-4-phenylbutyl]-4-methyl-N-[2,4-dioxo-1,3,8-triazaspiro[4.5]decan-3-yl]valeramide | C(C1=CC=CC=C1)OC(=O)NCC(=O)N1CCC2(C(N(C(N2)=O)NC([C@H](CC(C)C)[C@H](CCCC2=CC=CC=C2)C(=O)OC(C)(C)C)=O)=O)CC1 | C38H51N5O8
